US06462036B1
A mixture of 4-(1-oxospiro[indan-2,2′-oxiran]-3′-yl)benzoic acid (750 mg), methanol (30 ml) and hydrazine hydrate (0.16 ml) was stirred at ambient temperature whilst glacial acetic acid (6 drops) were added. The mixture was boiled under reflux for 24 hours and then allowed to stand at ambient temperature for 24 hours, then cooled to 0° C. and filtered to give methyl 4-(1,4-dihydroindeno [1,2-c]pyrazol-3-yl)benzoate, m.p. 224-226° C.

reactant | 4-(1-oxospiro[indan-2,2′-oxiran]-3′-yl)benzoic acid | 750 mg | O=C1C2=CC=CC=C2CC12OC2C2=CC=C(C(=O)O)C=C2 | C17H12O4
reactant | hydrazine hydrate | 0.16 ml | O.NN
reactant | methanol | 30 ml | CO | CH4O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | methyl 4-(1,4-dihydroindeno [1,2-c]pyrazol-3-yl)benzoate | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)OC)C=C2 | C18H14N2O2
